US08293905B2
To a reaction container equipped with a cooling apparatus, 2.28 g of tetrakis(triphenylphosphine)palladium, 7 g of 2-bromo-5-methyldiphenylsilylpyridine obtained in the above-mentioned Example 5-2 and 125 mL of tetrahydrofuran were added. To the obtained mixture, 39.51 mL of 2-pyridyl zinc bromide (0.5 M/tetrahydrofuran solution) was added with stirring at room temperature. The obtained mixture was stirred at 50° C. for 7 hours and 25 minutes to effect reaction. The reaction mixture was cooled until room temperature and then, 170 mL of 28% aqueous ammonia solution was added thereto. The obtained mixture was extracted three times with 200 mL of chloroform. The obtained organic layers were mixed and dried with magnesium sulfate. After removing magnesium sulfate by filtration, the filtrate was concentrated to obtain a crude product. The crude product was purified with silica gel column chromatography followed by further recrystallization with hexane to obtain 2.56 g of 5-methyldiphenylsilyl-2,2′-bipyridine.

reactant | 2-bromo-5-methyldiphenylsilylpyridine | 7 g | BrC1=NC=C(C=C1[SiH](C1=CC=CC=C1)C1=CC=CC=C1)C | C18H16BrNSi
reactant | 2-pyridyl zinc bromide | 0.5 M, 39.51 mL | [Br-].N1=C(C=CC=C1)[Zn+]
reactant | ammonia | 170 mL | N | H3N
catalyst | tetrakis(triphenylphosphine)palladium | 2.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | 5-methyldiphenylsilyl-2,2′-bipyridine | 2.56 g | CC=1C=C(C(=NC1)C1=NC=CC=C1)[SiH](C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2Si
